US04152515
I. disodium n-tetradecylthiosuccinate
12.2 g n-tetradecylthiosuccinic anhydride prepared according to the method of Zienty et al. [J. Org. Chem. 27, 3144 (1962)] was dissolved in methanol. Then, 3.6 g of sodium hydroxide in 15 ml of water was added and the mixture stirred for one hour. The crystalline precipitate was filtered off, dissolved in 150 ml of hot water and decolorized with charcoal. The filtrate from the charcoal treatment was then concentrated in vacuo and poured into acetone to precipitate the disodium n-tetradecylthiosuccinate. After drying the product in a vacuum oven, the yield was 13.2 g (0.24% moisture). The structure of the product was confirmed by NMR analysis.

reactant | n-tetradecylthiosuccinic anhydride | 12.2 g | C(CCCCCCCCCCCCC)C1C(=S)OC(C1)=O | C18H32O2S
reactant | sodium hydroxide | 3.6 g | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | methanol | CO | CH4O
product | disodium n-tetradecylthiosuccinate | C(CCCCCCCCCCCCC)OC(CCC(=O)[O-])=S.[Na+].[Na+].C(CCCCCCCCCCCCC)OC(CCC(=O)[O-])=S | InChI=1S/2C18H34O3S.2Na/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-16-21-18(22)15-14-17(19)20;;/h2*2-16H2,1H3,(H,19,20);;/q;;2*+1/p-2
